US07851547B2
A flask was charged with 216 g of γ-methacryloxypropyldimethylmethoxysilane and 500 g of methanol. Under a nitrogen stream, the flask was cooled to 5° C., to which 18.0 g of 0.2N acetic acid was added dropwise over 15 minutes while the liquid temperature was maintained below 10° C. After the completion of dropwise addition, stirring continued for one hour at room temperature. Then, 2260 g of 1,3-dimethyl-1,1,3,3-tetramethoxydisiloxane was added. Stirring continued for 2 hours at room temperature and for a further 8 hours at 60° C. The methanol and volatile matter were removed from the reaction solution by heating in vacuum, obtaining 1-(γ-methacryloxypropyl)-3,5-dimethyl-3,5,5-trimethoxytrisiloxane (M-2) in a yield of 82%.

reactant | γ-methacryloxypropyldimethylmethoxysilane | 216 g | C(C(=C)C)(=O)OCCC[Si](OC)(C)C | C10H20O3Si
reactant | methanol | 500 g | CO | CH4O
reactant | 1,3-dimethyl-1,1,3,3-tetramethoxydisiloxane | 2260 g | C[Si](O[Si](OC)(OC)C)(OC)OC | C6H18O5Si2
solvent | acetic acid | 0.2N, 18.0 g | C(C)(=O)O | C2H4O2
product | 1-(γ-methacryloxypropyl)-3,5-dimethyl-3,5,5-trimethoxytrisiloxane | yield of 82% | C(C(=C)C)(=O)OCCC[SiH2]O[Si](O[Si](OC)(OC)C)(OC)C | C12H28O7Si3
